US07414049B2
b) (S)-3-Amino-4-oxo-5-(4,4,4-trifluoro-butyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 4,4,4-trifluoro-butyl ester Hydrochloride
In an analogous manner to that described in Example 1d), the treatment of the (S)-3-tert-butoxycarbonylamino-4-oxo-5-(4,4,4-trifluoro-butyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 4,4,4-trifluoro-butyl ester with hydrochlorid acid (37%) in dioxane yielded quantitatively the title compound as a white foam; MS (m/e): 442 (M+H)+.

reactant | (S)-3-tert-butoxycarbonylamino-4-oxo-5-(4,4,4-trifluoro-butyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 4,4,4-trifluoro-butyl ester | FC(CCCOC(=O)N1C2=C(N(C([C@H](C1)NC(=O)OC(C)(C)C)=O)CCCC(F)(F)F)C=CC=C2)(F)F | C23H29F6N3O5
reactant | hydrochlorid | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (S)-3-Amino-4-oxo-5-(4,4,4-trifluoro-butyl)-2,3,4,5-tetrahydro-benzo[b][1,4]diazepine-1-carboxylic acid 4,4,4-trifluoro-butyl ester Hydrochloride | Cl.FC(CCCOC(=O)N1C2=C(N(C([C@H](C1)N)=O)CCCC(F)(F)F)C=CC=C2)(F)F | InChI=1S/C18H21F6N3O3.ClH/c19-17(20,21)7-3-9-26-13-5-1-2-6-14(13)27(11-12(25)15(26)28)16(29)30-10-4-8-18(22,23)24;/h1-2,5-6,12H,3-4,7-11,25H2;1H/t12-;/m0./s1
